parameters iout=20u iref=5u k=4 rout=2.827M vcompliance=545.7m vdd=1.2 vout_dc=600m
subckt Current_Mirror (IREF VOUT vdd vss)
M1 (n01 n02 vdd vdd) pch_lvt l=834.1n w=4.382u
M2 (n02 n02 vdd vdd) pch_lvt l=834.1n w=17.53u
M3 (IREF IREF n01 vdd) pch_lvt l=390n w=2.28u
M4 (VOUT IREF n02 vdd) pch_lvt l=390n w=9.9u
ends Current_Mirror
